US04208426
(1) 8-Ethyl-7-hydroxy-2,2,4,5-tetramethylchroman
A mixed solution was prepared from 6.1 g. of 2-ethyl-5-methyl resorcinol, 40 ml of isopropyl ether and 2 ml of concentrated sulfuric acid. To this solution, 5.7 g. of 2-methylpentane-2,4-diol were added dropwise at about 60° C. for about 30 minutes. After cooling, this solution was successively washed with water, with aqueous 1 N sodium hydroxide solution and again with water, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by subjecting to column chromatography filled with silica gel. There were obtained 6.0 g. (yield: 64.1%) of the subject compound.

reactant | 2-ethyl-5-methyl resorcinol | C(C)C1=C(O)C=C(C=C1O)C | C9H12O2
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-methylpentane-2,4-diol | CC(C)(CC(C)O)O | C6H14O2
solvent | isopropyl ether | 40 ml | C(C)(C)OC(C)C | C6H14O
product | 8-Ethyl-7-hydroxy-2,2,4,5-tetramethylchroman | yield: 64.1% | C(C)C=1C(=CC(=C2C(CC(OC12)(C)C)C)C)O | C15H22O2
